US05596097
To a stirred suspension of zinc dust (>230 mesh; 100 mg) in 75% formic acid (1.3 mL), at 80° C. (external bath temperature), 4-(5'-chloro-2'-fluorobenzoyl)-5-hydroxynicotinic acid of Preparative Example 26 (100 mg) is added portionwise during 5 minutes. Three further portions of zinc dust (3×50 mg) are subsequently added every 30 min. Stirring is continued for further 10 minutes after the last addition of zinc dust and the reaction mixture is then partitioned between ethyl acetate (10 mL) and 0.5N HCl (10 mL). The aqueous phase is extracted three times with ethyl acetate (3×10 mL), saturated with NaCl and further extracted with ethyl acetate (10 mL). The combined organic phases are washed with brine (10 mL), dried over Na2SO4 and concentrated to dryness. The residue is triturated in acetone (2 mL) and allowed to crystallize overnight. The white solid is collected by filtration, washed with methyl tert-butyl ether and dried under vacuum at 100° C. 4-(2'-fluoro-5'-chlorobenzyl)-5-hydroxynicotinic acid is obtained as a white solid (47 mg).

reactant | 4-(5'-chloro-2'-fluorobenzoyl)-5-hydroxynicotinic acid | ClC=1C=CC(=C(C(=O)C2=C(C=NC=C2C(=O)O)O)C1)F | C13H7ClFNO4
solvent | formic acid | 1.3 mL | C(=O)O | CH2O2
catalyst | zinc | 100 mg | [Zn] | Zn
catalyst | zinc | 50 mg | [Zn] | Zn
product | 4-(2'-fluoro-5'-chlorobenzyl)-5-hydroxynicotinic acid | FC1=C(CC2=C(C=NC=C2C(=O)O)O)C=C(C=C1)Cl | C13H9ClFNO3
